US06313309B1
Ethyl magnesium bromide (15.5 mL, 15.5 mmol) was added slowly to a solution of 4-iodo-1-tritylimidazole (4.8 g, 11.1 mmol, prepared as described by Turner and Lindel, J. Org. Chem. 1991, 56, 5739-5740) in methylene chloride (100 mL), and stirred at room temperature. After 30 min a solution of 1,3-dimethyl-4-keto-4,5,6,7-tetrahydrobenzo[c]thiophene (2 g, 11.1 mmol, prepared as described by Cagnaiant, et. al. Bull. Soc. Chim. France, 1970, 322-331) in methylene chloride (10 mL) was added slowly and stirred overnight at room temperature. The reaction was diluted with EtOAc washed sequentially with NH4Cl (sat'd), H2O and brine. The organic layer was dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield 4-(1-tritylimidazol-4-yl)-1,3-dimethyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-ol as brown crystals (5.1 g, 94%). mp 111-115° C. 1H NMR (CDCl3) δ2.08 (s, 3H), 2.15 (s, 3H), 2.25 (m, 2H), 2.45 (t, 2H), 2.70 (m, 2H), 6.81 (s, 1H), 7.10 (m, 9H), 7.41 (s, 1H). MS=491 (M+H), 243 (Ph3C). A sample of this material (2.55 g, 5.5 mmol), methylene chloride (50 mL), acetyl chloride (0.78 mL, 11 mmol) and triethylamine (1.53 mL, 11 mmol) was stirred overnight at room temperature under an argon atmosphere. The mixture was then treated with methylene chloride (50 mL) and washed with NaHCO3 (sat'd), water, and brine. The organic layer was then dried with Na2SO4, filtered and the solvent was evaporated in vacuo to yield 4-(1-tritylimidazol-4-yl)-1,3-dimethyl-4,5,6,7-tetrahydrobenzothiophen-4-yl) acetate. The acetate was stirred with diazobicycloundecane (0.82 mL, 5.5 mmol) in a mixture of benzene/MeOH (4:1, 20 mL) at room temperature overnight under argon atmosphere. The reaction mixture was then taken up in EtOAc, and washed sequentially with NH4Cl(sat'd), water, and brine. The organic layer was dried with MgSO4, filtered and the solvent evaporated in vacuo to yield 4-(1,3-dimethyl-6,7-dihydrobenzo[c]thiophen-4-yl)-1-trityl-1H-imidazole (1.6 g, overall 62%). 4-(1,3-Dimethyl-6,7-dihydrobenzo[c]thiophen-4-yl)-1-tritylimidazole (0.40 g, 0.8 mmol) and formic acid (5 mL, 0.13 mol) were stirred at room temperature for 18 hours. The reaction was partitioned between methylene chloride and Na2CO3 (sat'd). The organic layers were combined and dried with MgSO4, filtered and the solvent was evaporated in vacuo. The resultant product was purified by chromatography on silica gel eluted with 10% MeOH/EtOAc (2-3 drops NH4OH) to yield 4-(1,3-dimethyl-6,7-dihydrobenzo[c]thiophene-4-yl)-1H-imidazole (0.15 g, 82%). 1H NMR (CD3OD) δ1.75 (s, 3H), 2.26 (s, 3H), 2.31 (t, 2H), 2.55 (t, 2H), 6.01 (t, 1H), 6.92 (s, 1H), 7.61 (s, 1H). This material (0.25 g 1.08 mmol) was dissolved in hot isopropanol (25 mL) and added to maleic acid (0.125 g, 1.08 mmol) with stirring for 10 min. After cooling the crystals of Cp-4 were collected by filtration (0.23 g, 62%), mp 179-180° C. 1H NMR (DMSO) δ1.75 (s, 3H), 2.28 (s, 3H), 2.40 (t, 2H), 2.55 (t, 2H), 6.05 (s, 2H) 6.18 (t, 1H), 7.55 (s, 1H), 8.75 (s, 1H). MS m/e 231 (M+H).

reactant | Ethyl magnesium bromide | 15.5 mmol, 15.5 mL | C(C)[Mg]Br
reactant | 4-iodo-1-tritylimidazole | 11.1 mmol, 4.8 g | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | 1,3-dimethyl-4-keto-4,5,6,7-tetrahydrobenzo[c]thiophene | 11.1 mmol, 2 g | CC=1SC(=C2C1CCCC2=O)C | C10H12OS
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(1-tritylimidazol-4-yl)-1,3-dimethyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-ol | 5.1 g, 94% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1(CCCC2=C(SC(=C21)C)C)O | C32H30N2OS
